US07700633B2
To a solution of 3,6-bis-allyloxy-5-nitrobenzo[d]isoxazole (0.60 g, 2.17 mmol) in EtOAc (12 mL) is added portionwise tin(II) chloride dihydrate (2.2 g, 9.75 mmol). The mixture is stirred at room temperature for 2 h and then at 60° C. for 1.5 h. The mixture is diluted with EtOAc and saturated NaHCO3 is added dropwise, resulting in the formation of a precipitate. Sodium carbonate (2N) is added and the insoluble precipitate is filtered off. The phases are separated and the aqueous phase is extracted with EtOAc (3×). The organic layers are washed with water and brine, dried over MgSO4, filtered and concentrated. The crude material is purified by flash chromatography on silica gel, eluting with a gradient of hexanes/EtOAc to afford 3,6-bis-allyloxybenzo[d]isoxazol-5-ylamine as a waxy solid: (M+H)+=247.2.

reactant | 3,6-bis-allyloxy-5-nitrobenzo[d]isoxazole | 2.17 mmol, 0.60 g | C(C=C)OC1=NOC2=C1C=C(C(=C2)OCC=C)[N+](=O)[O-] | C13H12N2O5
reactant | tin(II) chloride dihydrate | 9.75 mmol, 2.2 g | O.O.[Sn](Cl)Cl
reactant | Sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOAc | 12 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3,6-bis-allyloxybenzo[d]isoxazol-5-ylamine | C(C=C)OC1=NOC2=C1C=C(C(=C2)OCC=C)N | C13H14N2O3
